US20010007873A1
C. 1-Cyclopentyl-3-benzyloxy-benzene
Prepared by heating 3-cyclopentyl-phenol with benzyl bromide and potassium carbonate (K2CO3) in acetone, as described in Example iC., to afford the title compound in 99% yield.

reactant | 3-cyclopentyl-phenol | C1(CCCC1)C=1C=C(C=CC1)O | C11H14O
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-Cyclopentyl-3-benzyloxy-benzene | 99% yield | C1(CCCC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C18H20O
